US05011831
6,8-Difluoro-1-methyl-7-(4-methyl-1-piperazinyl)-4-oxo- [1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid.
To 0.5 g of ethyl 6,8-difluoro-1-methyl-7-(4-methyl-1-piperazinyl)-4-oxo-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate was added 10 ml of 5% solution of potassium hydroxide in 3:1 mixture of tert-butanol and water and stirred at 60° C. for 30 minutes. tert-Butanol was evaporated therefrom in vacuo, the residue was neutralized with acetic acid, extracted with a 3:1 mixture of chloroform and methanol, the extract was washed with saturated sodium chloride solution, dried over magnesium sulfate, the solvent was evaporated therefrom, and the residue was subjected to a silica gel column chromatography (30 g of Wakogel C-300 being used) and eluted with chloroform-methanol (10:1) to give 0.18 g of desired product, m.p. 238° C. (decompn.).

reactant | ethyl 6,8-difluoro-1-methyl-7-(4-methyl-1-piperazinyl)-4-oxo-4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 0.5 g | FC=1C=C2C(C(=C3N(C2=C(C1N1CCN(CC1)C)F)C(S3)C)C(=O)OCC)=O | C19H21F2N3O3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 6,8-Difluoro-1-methyl-7-(4-methyl-1-piperazinyl)-4-oxo- [1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid | 0.18 g | FC=1C=C2C(C(=C3N(C2=C(C1N1CCN(CC1)C)F)C(S3)C)C(=O)O)=O | C17H17F2N3O3S
